US03974154
1-(1-Chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio)azetidin -2-one (570mg) was dissolved in a 1:1 mixture of dry tetrahydrofuran and dioxan (20ml) under nitrogen. Triphenylphosphine (495mg) and dry pyridine (150mg) were added and the mixture heated at 49° for 16 hours. The reaction mixture was filtered the filtrate evaporated. The residue was triturated with toluene and the soluble portion re-evaporated. Chromatography on silica afforded 1-(1-t-butoxycarbonyl)-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio) azetidin-2-one, as a white solid (418mg).

reactant | 1-(1-Chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio)azetidin -2-one | 570mg | ClC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CC1=CC=C(C=C1)F)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H34ClFN2O3S
reactant | Triphenylphosphine | 495mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 150mg | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dioxan | 20ml | O1CCOCC1 | C4H8O2
product | 3-(triphenylmethylamino)-4-(3-p-fluorophenylprop-2-ynylthio) azetidin-2-one | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NC1SCC#CC1=CC=C(C=C1)F)=O | C31H25FN2OS
